US07115589B2
1-(Bis-diethylphosphonomethylene)-4-aminobenzene
The above 1-(Bis-diethylphosphonomethylene-4-(N-trifluoroacetylamino)benzene (1.2 g, 2.52 mmols) in NaOH solution (0.1 N, 10 mL) was heated to 60_C for 5 h. The reaction mixture was cooled to rt, and extracted with methylene chloride. Combined organic layers were dried over sodium sulfate and concentrated to afford the product (0.85 g, 97%). MS: 412 (M+23).

reactant | Bis-diethylphosphonomethylene-4-(N-trifluoroacetylamino)benzene | 2.52 mmols, 1.2 g | C(C)OP(=O)(OCC)C(P(=O)(OCC)OCC)=C1CC=C(C=C1)NC(C(F)(F)F)=O | C17H26F3NO7P2
solvent | NaOH | 0.1 N, 10 mL | [OH-].[Na+]
product | 1-(Bis-diethylphosphonomethylene)-4-aminobenzene | 0.85 g, 97% | C(C)OP(=O)(OCC)C(=C1CC=C(C=C1)N)P(=O)(OCC)OCC | C15H27NO6P2
